US08536214B2
N-(5-((4-(Hydroxymethyl)-3-(trifluoromethyl)-1H-pyrazol-1-yl)methyl)-2,3-dihydro-1H-inden-1-yl)isobutyramide
To a solution of (1-((1-amino-2,3-dihydro-1H-inden-5-yl)methyl)-3-(trifluoromethyl)-1H-pyrazol-4-yl)methanol (0.096 mmol, 30 mg), isobutyric acid (0.096 mmol, 8.94 μL 8.49 mg), triethylamine (0.193 mmol, 0.027 ml, 19.50 mg) and HOBt (0.096 mmol, 13.02 mg) in DMF (0.8 mL) was added EDCI/WSC (0.096 mmol, 18.47 mg). The whole was stirred at room temperature overnight before the reaction mixture was quenched by the addition of MeOH (100 μL) before being purified by prep HPLC to give a white solid (10.8 mg, 0.028 mmol, 29.4%). MS (ESI): m/z [M+H]+ 382.2

reactant | (1-((1-amino-2,3-dihydro-1H-inden-5-yl)methyl)-3-(trifluoromethyl)-1H-pyrazol-4-yl)methanol | 0.096 mmol, 30 mg | NC1CCC2=CC(=CC=C12)CN1N=C(C(=C1)CO)C(F)(F)F | C15H16F3N3O
reactant | isobutyric acid | 0.096 mmol, 8.94 μL, 8.49 mg | C(C(C)C)(=O)O | C4H8O2
reactant | triethylamine | 0.193 mmol, 0.027 ml, 19.50 mg | C(C)N(CC)CC | C6H15N
reactant | HOBt | 0.096 mmol, 13.02 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | EDCI WSC | 0.096 mmol, 18.47 mg | CCN=C=NCCCN(C)C.CCN=C=NCCCN(C)C | 2C8H17N3
solvent | DMF | 0.8 mL | CN(C)C=O | C3H7NO
product | N-(5-((4-(Hydroxymethyl)-3-(trifluoromethyl)-1H-pyrazol-1-yl)methyl)-2,3-dihydro-1H-inden-1-yl)isobutyramide | 0.028 mmol, 10.8 mg, 29.4% | OCC=1C(=NN(C1)CC=1C=C2CCC(C2=CC1)NC(C(C)C)=O)C(F)(F)F | C19H22F3N3O2
